US08207164B2
d) 5-(3-Bromo-phenyl)-5-hydroxymethyl-morpholin-3-one
A suspension of N-[1-(3-bromo-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide (3.24 g, 10.04 mmol) and 35 ml of t-BuOH was treated with potassium tart-butoxide (1.127 g, 10.04 mmol). The mixture was heated at reflux for 1 h and neutralized with 10 ml of 1N HCl. Water and TBME were added, and the precipitate was filtered off. The organic phase of the filtrate was separated, dried with sodium sulfate and chromatographed on silica gel (EtOAc/MeOH 1-2%) to give the title compound in the form of a colourless solid. TLC (EtOAc/MeOH 1%): Rf=0.23; HPLC: RtH2=2.839 min; 1H-NMR (400 MHz, CD3OD): 7.70 (s, 1H), 7.53-7.47 (m, 2H), 7.35 (t, 1H), 4.17 (s, 2H), 4.08 (d, 1H), 3.98 (d, 1H), 3.91 (d, 1H), 3.87 (d, 1H); MS: 287, 289 [(M+H)+].

reactant | N-[1-(3-bromo-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 10.04 mmol, 3.24 g | BrC=1C=C(C=CC1)C(CO)(CO)NC(CCl)=O | C11H13BrClNO3
reactant | potassium | [K] | K
reactant | butoxide | 10.04 mmol, 1.127 g | [O-]CCCC
reactant | HCl | 1N, 10 ml | Cl | ClH
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | Water | O | H2O
solvent | t-BuOH | 35 ml | CC(C)(C)O | C4H10O
product | 5-(3-Bromo-phenyl)-5-hydroxymethyl-morpholin-3-one | BrC=1C=C(C=CC1)C1(COCC(N1)=O)CO | C11H12BrNO3
